US08193356B2
To a suspension of 4-hydroxy-1-(3-trifluoromethoxyphenyl)-3-(2-trifluoromethylphenylacetyl)-1,8-naphthyridin-2(1H)-one (763 mg, 1.5 mmol) produced in Synthesis Example 20 in DMF (5 mL) was added hydrazine monohydrate (purity of 80%, 291 μL), and the mixture was stirred at 100 to 110° C. for 1 hour. To the reaction solution was added a sodium hydrogencarbonate aqueous solution. The resulting precipitate was separated by filtration, recrystallized from ethanol, and dried to give 5-(3-trifluoromethoxyphenyl)-3-(2-trifluoromethylbenzyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one (520 mg, yield 69%).

reactant | 4-hydroxy-1-(3-trifluoromethoxyphenyl)-3-(2-trifluoromethylphenylacetyl)-1,8-naphthyridin-2(1H)-one | 1.5 mmol, 763 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC(=CC=C1)OC(F)(F)F)=O)C(CC1=C(C=CC=C1)C(F)(F)F)=O | C24H14F6N2O4
reactant | hydrazine monohydrate | 291 μL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(3-trifluoromethoxyphenyl)-3-(2-trifluoromethylbenzyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one | 520 mg, yield 69% | FC(OC=1C=C(C=CC1)N1C(C2=C(C=3C=CC=NC13)NN=C2CC2=C(C=CC=C2)C(F)(F)F)=O)(F)F | C24H14F6N4O2
